US09108957B2
To a solution of (R)—N-[2-(3-hydroxy-propoxy)-1-methyl-ethyl]-2-nitro benzene sulfonamide (1.3 g, 4.1 mmol) in THF (50 mL) was added triphenylphosphine (1.7 g, 6.6 mmol) and a 40% wt solution of diethyl azodicarboxylate (DEAD) in toluene (3 mL, 6.6 mmol) at room temperature. The resulting mixture was stirred for 18 hours and concentrated. The residue was passed through flash column chromatography on silica gel (hexane/ethyl acetate=1/1 as an eluant) to remove triphenylphosphine oxide. The resulting brown viscous material containing (R)-3-methyl-4-(2-nitro-benzenesulfonyl)-[1,4]oxazepane was dissolved in dimethylformamide (DMF) (10 mL) and thioglycolic acid (0.72 mL, 10 mmol) and lithium hydroxide monohydrate (1 g, 24 mmol) was added to the mixture at room temperature. After stirring for 18 hours, the reaction mixture was diluted with water and extracted with ethyl acetate. The organic extracts were dried over sodium sulfate and concentrated. The residue was dissolved in THF (10 mL) and 1M aqueous sodium hydroxide solution (10 mL) and di-tert-butyl dicarbonate (1.0 g, 4.5 mmol) were added to the solution at room temperature. After stirring for 5 hours, the reaction mixture was evaporated to remove organic solvent and extracted with ethyl acetate. The organic solution was dried over sodium sulfate and concentrated. The residue was purified by flash column chromatography on silica gel (hexane/ethyl acetate=3/1 as an eluant) to yield (R)-3-methyl-[1,4]oxazepane-4-carboxylic acid tert-butyl ester (0.48 g, 2.2 mmol, 56%) as colorless oil.

reactant | (R)—N-[2-(3-hydroxy-propoxy)-1-methyl-ethyl]-2-nitro benzene sulfonamide | 4.1 mmol, 1.3 g | OCCCOC[C@@H](C)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C12H18N2O6S
reactant | triphenylphosphine | 6.6 mmol, 1.7 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | toluene | 6.6 mmol, 3 mL | C1(=CC=CC=C1)C | C7H8
reactant | thioglycolic acid | 10 mmol, 0.72 mL | C(CS)(=O)O | C2H4O2S
reactant | lithium hydroxide monohydrate | 24 mmol, 1 g | O.[OH-].[Li+]
reactant | sodium hydroxide | 1M, 10 mL | [OH-].[Na+]
reactant | di-tert-butyl dicarbonate | 4.5 mmol, 1.0 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (R)-3-methyl-[1,4]oxazepane-4-carboxylic acid tert-butyl ester | 2.2 mmol, 0.48 g, 56% | C(C)(C)(C)OC(=O)N1[C@@H](COCCC1)C | C11H21NO3
